US05070090
A mixture of 11.3 parts of 2-chloromethyl-4-(phenylmethyl)morpholine (described in Synth. Comm. 1980, 10(1), 59-73), 8.3 parts of ethyl 4-hydroxybenzoate, 6.9 parts of potassium carbonate and 141 parts of N,N-dimethylformamide was stirred overnight at 110° C. The reaction mixture was evaporated and water was added to the residue. The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was converted into the (E)-2-butenedioate salt in 2-propanol, yielding 9.5 parts (40.3%) of ethyl 4-[[4-(phenylmethyl)-2-morpholinyl]methoxy]benzoate (E)-2-butenedioate(1:1); mp. 174.4° C. (interm. 1).

reactant | 2-chloromethyl-4-(phenylmethyl)morpholine | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 4-[[4-(phenylmethyl)-2-morpholinyl]methoxy]benzoate (E)-2-butenedioate | 40.3% | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)CN1CC(OCC1)COC1=CC=C(C(=O)OCC)C=C1 | InChI=1S/C21H25NO4.C4H4O4/c1-2-24-21(23)18-8-10-19(11-9-18)26-16-20-15-22(12-13-25-20)14-17-6-4-3-5-7-17;5-3(6)1-2-4(7)8/h3-11,20H,2,12-16H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
